US08076329B2
Following the procedure described in example 1§E, but starting from 4-hydroxy-2′-methylbiphenyl (0.55 g), potassium carbonate (2.07 g) and 1-bromo-3-chloropropane (1.48 mL) in N,N-dimethylformamide (20 mL) affords 913 mg of 4-(3-chloropropoxy)-2′-methylbiphenyl used without further purification.

reactant | 4-hydroxy-2′-methylbiphenyl | 0.55 g | OC1=CC=C(C=C1)C1=C(C=CC=C1)C | C13H12O
reactant | potassium carbonate | 2.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropane | 1.48 mL | BrCCCCl | C3H6BrCl
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-(3-chloropropoxy)-2′-methylbiphenyl | 913 mg | ClCCCOC1=CC=C(C=C1)C1=C(C=CC=C1)C | C16H17ClO
